US07196107B2
{4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methanol
To a well stirred solution of lithium aluminium hydride (1.52 g) in dry tetrahydrofuran (50 ml) at 0° C., was slowly added a solution of ethyl 4-methyl-2-[4-(trifluoromethyl)phenyl]-thiazole-5-carboxylate (12.6 g) in dry tetrahydrofuran (50 ml). The mixture was stirred at room temperature for 2 hours. The reaction was quenched by slow addition at 0° C. of water (2 ml), 5N NaOH (2 ml) and water (6 ml). The precipitate was filtered, washed with ethyl acetate, methanol, dichloromethane and tetrahydrofuran. After evaporation, a yellow solid was obtained, that was crystallized from methanol-water to afford the title compound as a yellow solid.

reactant | lithium aluminium hydride | 1.52 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-methyl-2-[4-(trifluoromethyl)phenyl]-thiazole-5-carboxylate | 12.6 g | CC=1N=C(SC1C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | {4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methanol | CC=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C12H10F3NOS
